US09388149B2
24 ml (60 mmol, 1.5 eq) of a 2.5 M solution of n-butyllithium in hexane were added dropwise to a solution of 5.0 g (60 mmol, 1.5 eq) of 2-methylfuran in 100 ml of tetrahydrofuran cooled to −70° C. The reaction medium was stirred and allowed to return to ambient temperature for 2 hours. The reaction medium was cooled to −70° C. and then 6.0 g (40 mmol, 1 eq) of 2-methyltetrahydrofuran-2-carbaldehyde at 77% were added. The reaction medium was stirred at ambient temperature for 3 hours. The reaction medium was treated with a saturated ammonium chloride solution and extracted with ethyl acetate. The organic phases were combined, washed with a saturated sodium chloride solution, filtered over magnesium sulfate and evaporated. 5.21 g of (5-methylfuran-2-yl)-(2-methyltetrahydrofuran-2-yl)methanol were obtained. Yield=66%. TLC/SiO2: heptane/EtOAc (60/40), developing with KMnO4.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-methylfuran | 60 mmol, 5.0 g, 1.5 eq | CC=1OC=CC1 | C5H6O
reactant | 2-methyltetrahydrofuran-2-carbaldehyde | 40 mmol, 6.0 g, 1 eq | CC1(OCCC1)C=O | C6H10O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (5-methylfuran-2-yl)-(2-methyltetrahydrofuran-2-yl)methanol | 5.21 g, Yield=66% | CC1=CC=C(O1)C(O)C1(OCCC1)C | C11H16O3
